US09303012B2
a) 1-Oxa-7-azaspiro[4.4]nonan-3-ol hydrochloride
A mixture of tert-butyl 3-hydroxy-1-oxa-7-azaspiro[4.4]nonane-7-carboxylate (CAN 1331825-50-3, 33 mg, 136 μmol) and a 4 M solution of HCl in dioxane (339 μL, 1.36 mmol) in dioxane (0.3 mL) was stirred at ambient temperature for 3 h to give the title compound (14 mg, 58%) as light brown oil which was sufficiently pure to be used in the next step; MS (EI): m/e=144.2 [(M-Cl)H+].

reactant | tert-butyl 3-hydroxy-1-oxa-7-azaspiro[4.4]nonane-7-carboxylate | 136 μmol, 33 mg | OC1COC2(C1)CN(CC2)C(=O)OC(C)(C)C | C12H21NO4
reactant | HCl | Cl | ClH
solvent | dioxane | 0.3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.36 mmol, 339 μL | O1CCOCC1 | C4H8O2
product | 1-Oxa-7-azaspiro[4.4]nonan-3-ol hydrochloride | 14 mg, 58% | Cl.O1CC(CC12CNCC2)O | InChI=1S/C7H13NO2.ClH/c9-6-3-7(10-4-6)1-2-8-5-7;/h6,8-9H,1-5H2;1H
